US04333942
(c) 4-(4-nitrophenoxy)-4-phenyl-1-(2-phenylethyl)piperidine
from 4-(4-nitrophenoxy)-4-phenylpiperidine and 2-phenylethyl bromide.

reactant | 4-(4-nitrophenoxy)-4-phenylpiperidine | [N+](=O)([O-])C1=CC=C(OC2(CCNCC2)C2=CC=CC=C2)C=C1 | C17H18N2O3
reactant | 2-phenylethyl bromide | C1(=CC=CC=C1)CCBr | C8H9Br
product | 4-(4-nitrophenoxy)-4-phenyl-1-(2-phenylethyl)piperidine | [N+](=O)([O-])C1=CC=C(OC2(CCN(CC2)CCC2=CC=CC=C2)C2=CC=CC=C2)C=C1 | C25H26N2O3
